US09447084B2
4-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]-1-propylpiperazine-2,6-dione
Into a 25-mL round-bottom flask, was placed a solution of 4-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]piperazine-2,6-dione (70 mg, 0.12 mmol, 1.00 equiv) in N,N-dimethylformamide (2 mL), 1-iodopropane (32 mg, 0.19 mmol, 2.00 equiv), potassium carbonate (59 mg, 0.43 mmol, 3.00 equiv). The resulting solution was stirred for 2 h at 25° C. The reaction was then quenched by the addition of 10 mL of water. The resulting solution was extracted with 2×10 mL of ethyl acetate and the organic layers combined and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:2). This resulted in 31 mg (41%) of 4-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]-1-propylpiperazine-2,6-dione as a white solid. (ES, m/z): [M+CH3CN]+ 685.0; 1H NMR (300 MHz, CDCl3): δ 7.79-7.84 (m, 2H), 7.73-7.87 (m, 3H), 7.46 (d, J=7.8 Hz, 1H), 4.86 (d, J=19.4 Hz, 1H), 4.56 (d, J=18.3 Hz, 1H), 4.19 (d, J=17.4 Hz, 1H), 4.05 (s, 2H), 3.75-3.81 (m, 3H), 1.52-1.64 (m, 2H), 0.93 (t, J=7.2 Hz, 3H).

reactant | 4-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]piperazine-2,6-dione | 0.12 mmol, 70 mg, 1.00 equiv | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CC(NC(C1)=O)=O)C(F)(F)F)C(F)(F)F | C23H13ClF9N3O4
reactant | 1-iodopropane | 0.19 mmol, 32 mg, 2.00 equiv | ICCC | C3H7I
reactant | potassium carbonate | 0.43 mmol, 59 mg, 3.00 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | CH3CN | CC#N | C2H3N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]-1-propylpiperazine-2,6-dione | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CC(N(C(C1)=O)CCC)=O)C(F)(F)F)C(F)(F)F | C26H19ClF9N3O4
